US06022906
1-[4-(10-mercaptodecanylthio)-phenyl]-2-methyl-2-morpholine-4-yl-propane-1-one
51.7 g (0.25 mol) of 1,10-decanedithiol are added to a suspension of 13.9 g (0.10 mol) of potassium carbonate in 50 ml of dimethylacetamide. The suspension is heated to 85° C., and a solution of 13.4 g (0.05 mol) of 1-(4-chlorophenyl)-2-methyl-2-morpholin-4-yl-propan-1-one in 25 ml of dimethylacetamide is added dropwise over 5 h. After stirring for 18 h, the solid is filtered off, the filtrate is poured into 30 ml of 2N HCl solution. The formed white precipitate is collected by filtration and then dissolved in methylene chloride and neutralized with 30 ml of 2N NaOH solution. After methylene chloride is distilled off, the residual crystals are further purified by recrystallization from chloroform-ethanol (20:80). The obtained product has a melting point of 87-90° C. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 1.28-1.39 (m, 9H), 1.45 (m, 2H),1.31 (s, 6H), 1.64 (q, 4H), 1.69 (m, 2H), 2.52 (q, 2H), 2.56 (m, 4H), 2.99 (m, 2H), 3.71 (m, 4H), 7.26 (d, 2H), 8.49 (d, 2H).

reactant | 1,10-decanedithiol | 0.25 mol, 51.7 g | C(CCCCCCCCCS)S | C10H22S2
reactant | potassium carbonate | 0.10 mol, 13.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-chlorophenyl)-2-methyl-2-morpholin-4-yl-propan-1-one | 0.05 mol, 13.4 g | ClC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18ClNO2
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 25 ml | CC(=O)N(C)C | C4H9NO
product | 1-[4-(10-mercaptodecanylthio)-phenyl]-2-methyl-2-morpholine-4-yl-propane-1-one | SCCCCCCCCCCSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C24H39NO2S2
